* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU77552
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU77552 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1 +IN1 -IN1 V+ V- OUT1 NJU77552_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU77552_s
.ends NJU77552
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | |
*                      | | | | output
*                      | | | | |
.subckt NJU77552_s     1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
RP 3 4 {RP}
IDS 3 4 {IDS}
Vos 1 NET1 DC {VOS}
VS 19 4 {VS}
VD 3 18 {VD}

.MODEL DMOD1 D(T_MEASURED= 25 IS= 3.51E-20)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO= -7.00E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO= -7.00E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 1.51E+02)
*
.PARAM
+ C1=	7.0E-12
+ C2=	8.75E-12
+ CS=	0E-12
+ GCM=	3.4854E-08
+ GA=	2.20E-04
+ GB=	66.65 
+ GC=	3728.2447
+ ITL=	7.00E-06
+ RS=	2.86E+07
+ RD1=	4547.28 
+ RD2=	4547.28 
+ RC=	2.68E-04
+ RS1=	7532.30 
+ RS2=	7532.30 
+ RO1=	25
+ RO2=	50
+ RP=	4.04E+05
+ VD=	0.823555261
+ VS=	0.813960166
+ IDS= 3.06E-05
*InputOffsetVoltage*
+ VOS=	-0.268902E-03
+ VRD=	-9.50E-01
+ L_VAL=2.00E-08
+ W_VAL=8.00E-06
.ends NJU77552_s
*$
